US07348438B2
5,6-Dichloro-1-(4-nitro-benzyl)-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole
To 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole (355 mg) in DMF (5 mL) was added sodium hydride (110 mg of 60% in oil) and 4-nitrobenzyl bromide (596 mg). The resulting mixture was stirred at room temperature overnight. The reaction mixture was quenched with water, extracted with EtOAc, and dried over Na2SO4. The crude product was purified by silica gel chromatography (10%-40% EtOAc/hexanes) to yield the title compound as a light orange solid.

reactant | 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole | 355 mg | ClC1=CC2=C(NC(=N2)CC(F)(F)F)C=C1Cl | C9H5Cl2F3N2
reactant | sodium hydride | 110 mg | [H-].[Na+]
reactant | 4-nitrobenzyl bromide | 596 mg | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5,6-Dichloro-1-(4-nitro-benzyl)-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1Cl | C16H10Cl2F3N3O2
